US04590315
A mixture of 55 parts of anhydrous potassium fluoride and 45.32 parts of 3,5-dichloro-4-fluorobenzotrifluoride in 291 parts of sulfolane was heated and maintained at about 216° to 256° for a period of about 55 hours, while product vapors were removed through a distillation column at a head temperature of about 130°-150° C. A total of 32.02 parts of distillate was collected and analyzed by gas chromatography/mass spectrometry. The distillate was found to be 25.1 percent 3,5-dichloro-4-fluorobenzotrifluoride; 65.9 percent 3-chloro-4,5-difluorobenzotrifluoride; 8.6 percent 3,4,5-trifluorobenzotrifluoride and trace amounts of 4-chloro-3,5-difluorobenzotrifluoride. The desired 3-chloro-4,5-difluorobenzotrifluoride was isolated by distillation (b.p. 122° C.) to recover it in essentially pure form (greater than 99 percent pure). The 3,5-dichloro-4-fluoro isomer is recycled.

reactant | potassium fluoride | [F-].[K+]
reactant | 3,5-dichloro-4-fluorobenzotrifluoride | ClC=1C=C(C=C(C1F)Cl)C(F)(F)F | C7H2Cl2F4
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
product | 3-chloro-4,5-difluorobenzotrifluoride | ClC=1C=C(C=C(C1F)F)C(F)(F)F | C7H2ClF5
